US06117811
Then a solution of n-butyllithium in hexane (5.90 ml; 1.65 mol/l; 9.74 mmol) was added dropwise to a cold solution (-78° C.) of 2-dimethylaminoethanol (0.867 g; 9.74 mmol) in THF (35 ml) in a second Schlenk vessel. After stirring for two hours at room temperature, the mixture was again cooled to -78° C. and the solid p-toluenesulphonyl chloride (1.855 g; 9.74 mmol) was added slowly. The mixture was brought to 0° C. and stirred at that temperature for 5 minutes, after which the mixture from the first Schlenk vessel was added all at once. After 16 hours, the conversion was 100%. After column chromatography, 2.6 g of (dimethylaminoethyl)tetraethylcyclopentadiene was obtained. The geminal isomers were isolated from the nongeminal isomers by converting the nongeminal isomers into their sparingly soluble potassium salt and then washing this salt with a solvent in which it does not or only sparingly dissolve.

reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 9.74 mmol, 1.65 mol/l, 5.90 ml | CCCCCC | C6H14
reactant | 2-dimethylaminoethanol | 9.74 mmol, 0.867 g | CN(CCO)C | C4H11NO
reactant | p-toluenesulphonyl chloride | 9.74 mmol, 1.855 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | (dimethylaminoethyl)tetraethylcyclopentadiene | 2.6 g | CN(C)CCC1C(=C(C(=C1CC)CC)CC)CC | C17H31N
